US07115600B2
To a stirring solution of 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester, (J. Org. Chem. 1988, 53, 3841 and J. Org. Chem. 1996, 61, 2174) (15.0 g, 86.1 mmol) in 40 mL of tetrahydrofuran at 0° C. (ice/water bath) was added dropwise a solution of lithium aluminum hydride (103.3 mL, 1M tetrahydrofuran). After the addition was complete the reaction was warmed to room temperature and stirred 12 hours. The reaction was worked-up using the method of Feiser and Feiser, and then filtered through a plug of Celite and concentrated under reduced pressure to yield (3,3-dimethoxy-cyclobutyl)-methanol (12.4 g, 99% crude yield) as a colorless oil. This material was used without further purification.

reactant | 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester | COC(=O)C1CC(C1)(OC)OC | C8H14O4
reactant | lithium aluminum hydride | 1M, 103.3 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (3,3-dimethoxy-cyclobutyl)-methanol | 12.4 g | COC1(CC(C1)CO)OC | C7H14O3
